US05677302
Preparation of 3-(4-methyl-1-piperazinyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole dihydrochloride
To a clear solution of 3-(4-methyl-1-piperazinyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole (6.07 g, 22.21 mmol) in 100 ml of dichloromethane, hydrogen chloride gas was bubbled through for 40 min. The solution became turbid with time. The suspension was filtered and dried under vacuum to give the title compound as a fine white powder 7.60 g (99%). mp 252° C. (dec); 1H NMR (DMSO-d6 & D2O) δ7.85 (d, 2H), 7.60 (t, 1H), 7.51 (t, 1H), 3.86 (m, 2H), 3.56 (m, 6H), 2.91 (s, 3H) ppm; 13C NMR (DMSO-d6 & D2O) δ164.39, 148.80, 144.27, 126.92, 126.12, 123.41, 117.08, 113.20, 51.19, 45.87, 42.32 ppm; IR (KBr) ν3420, 1606, 1571, 1475, 1461, 1225, 981, 761 cm-1.

reactant | 3-(4-methyl-1-piperazinyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 22.21 mmol, 6.07 g | CN1CCN(CC1)C1=NSC2=NC3=C(N21)C=CC=C3 | C13H15N5S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
product | 3-(4-methyl-1-piperazinyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole dihydrochloride | 7.60 g, 99% | Cl.Cl.CN1CCN(CC1)C1=NSC2=NC3=C(N21)C=CC=C3 | InChI=1S/C13H15N5S.2ClH/c1-16-6-8-17(9-7-16)12-15-19-13-14-10-4-2-3-5-11(10)18(12)13;;/h2-5H,6-9H2,1H3;2*1H
